US07799798B2
A. Synthesis of 1-pentyl-1H-pyrrolo[3,2-c]pyridine-2,3-dione
Following the procedure as described in PREPARATION 1A, and making non-critical variations using 1H-pyrrolo[3,2-c]pyridine-2,3-dione (see Rivalle, C., et al, J. Heterocyclic Chem. (1997), 34:441) to replace 1H-pyrrolo[2,3-b]pyridine, the title compound was obtained (36%): 1H NMR (300 MHz, CDCl3) δ 8.71-8.64 (m, 2H), 6.90 (d, 1H), 3.71 (t, 2H), 1.74-1.62 (m, 2H), 1.41-1.27 (m, 4H), 0.89 (t, 3H); MS (ES+) m/z 219.3 (M+1).

reactant | 1H-pyrrolo[3,2-c]pyridine-2,3-dione | N1C(C(C=2C=NC=CC21)=O)=O | C7H4N2O2
reactant | 1H-pyrrolo[2,3-b]pyridine | N1C=CC=2C1=NC=CC2 | C7H6N2
product | 1-pentyl-1H-pyrrolo[3,2-c]pyridine-2,3-dione | C(CCCC)N1C(C(C=2C=NC=CC21)=O)=O | C12H14N2O2
